US08541429B2
Step 5. [8-(benzylthio)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazolin-3-yl](phenyl)methanone [B05-X04-M00(C01)-D07]
0.22 g (0.55 mmol) of 1-[2-(benzylthio)-8-oxo-5,6,7,8-tetrahydroquinazolin-7-yl]-2-phenylethane-1,2-dione were dissolved in 6 mL of ethanol and 0.03 g (0.66 mmol) of methyl hydrazine were added. The reaction mixture was maintained under stirring at refluxing temperature for 5 hours. After that time the solvent was removed under reduced pressure, the residue redissolved with dichloromethane and washed with water. The organic layer was dried over Na2SO4 and concentrated, giving 0.16 g of the title compound (70% yield).

reactant | 1-[2-(benzylthio)-8-oxo-5,6,7,8-tetrahydroquinazolin-7-yl]-2-phenylethane-1,2-dione | 0.55 mmol, 0.22 g | C(C1=CC=CC=C1)SC1=NC=2C(C(CCC2C=N1)C(C(=O)C1=CC=CC=C1)=O)=O | C23H18N2O3S
reactant | methyl hydrazine | 0.66 mmol, 0.03 g | CNN | CH6N2
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | [8-(benzylthio)-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazolin-3-yl](phenyl)methanone | 0.16 g, 70% yield | C(C1=CC=CC=C1)SC1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)C3=CC=CC=C3 | C24H20N4OS
